US07214673B2
2-(4-Fluoro-2-nitro-phenylamino)-5-trifluoromethyl-benzonitrile
Combine 4-fluoro-2-nitro-phenylamine (5.9 g, 32.03 mmol), 2-fluoro-5-trifluoromethyl-benzonitrile (6.07 g, 32.03 mmol) and lithium hydroxide monohydrate (4.03 g, 96.08 mmol) in methyl sulfoxide (DMSO, 60 ml). Heat the resulting mixture to 70° C. for 16 hours. Cool the reaction mixture to ambient temperature, then pour into approximately 400 ml of ice water and stir for one hour. Filter the resulting mixture and collect the precipitate. Obtained 9.995 g of the title compound (30.73 mmol, 96% yield) as an orange amorphous solid. Product used as is with no further purification: Mass Spectrum (m/e): 326(M+1).

reactant | 4-fluoro-2-nitro-phenylamine | 32.03 mmol, 5.9 g | FC1=CC(=C(C=C1)N)[N+](=O)[O-] | C6H5FN2O2
reactant | 2-fluoro-5-trifluoromethyl-benzonitrile | 32.03 mmol, 6.07 g | FC1=C(C#N)C=C(C=C1)C(F)(F)F | C8H3F4N
reactant | lithium hydroxide monohydrate | 96.08 mmol, 4.03 g | O.[OH-].[Li+]
solvent | methyl sulfoxide | 60 ml | CS(=O)C | C2H6OS
product | 2-(4-Fluoro-2-nitro-phenylamino)-5-trifluoromethyl-benzonitrile | 30.73 mmol, 9.995 g, 96% yield | FC1=CC(=C(C=C1)NC1=C(C#N)C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C14H7F4N3O2
